US08278331B2
To a solution of 5-(4-amino-phenoxy)-pyridine-2-carboxylic acid t-butyl ester (1.0 g, 3.5 mmol) in THF (10 ml) was added aqueous NaOH (1 M, 7 ml, 7 mol) followed by (Boc)2O (0.76 g, 3.5 mmol). The resulting mixture was heated to reflux for 2 h. The reaction mixture was concentrated, the residue diluted with water (20 mL) and extracted with dichloromethane (3×100 mL). The combined organic layers were washed with brine, dried (Na2SO4), concentrated and purified via chromatography to provide 5-(4-t-butoxycarbonylamino-phenoxy)-pyridine-2-carboxylic acid t-butyl ester (1.2 g, 89% yield). MS (ESI) m/z: (M+H+) 387.3.

reactant | 5-(4-amino-phenoxy)-pyridine-2-carboxylic acid t-butyl ester | 3.5 mmol, 1.0 g | C(C)(C)(C)OC(=O)C1=NC=C(C=C1)OC1=CC=C(C=C1)N | C16H18N2O3
reactant | NaOH | 7 mol, 1 M, 7 ml | [OH-].[Na+]
reactant | (Boc)2O | 3.5 mmol, 0.76 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-(4-t-butoxycarbonylamino-phenoxy)-pyridine-2-carboxylic acid t-butyl ester | 1.2 g, 89% yield | C(C)(C)(C)OC(=O)C1=NC=C(C=C1)OC1=CC=C(C=C1)NC(=O)OC(C)(C)C | C21H26N2O5
